US04022761
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosine methyl ester is prepared from 40 g. (29 mmol) of Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine resin by successive couplings according to the solid-phase procedure with (1) 10 g. of Nα-butoxycarbonyl-O-benzyl-L-serine (33 mmol) and 7 g. (34 mmol) of dicyclohexycarbodiimide, (2) 10 g. (33 mmol) of Nα-t-butoxycarbonyl-L-tryptophan and 7 g. of dicyclohexylcarbodiimide. The resulting resin, 44 g., is converted to the methyl ester by stirring it overnight at room temperature with 300 ml. of methanol and 30 ml. of triethylamine. The mixture is filtered and the solvent evaporated. The residual oil solidifies and is crystallized from isopropanol to yield 10 g. of white solid, m.p. 130°-131° C.

reactant | Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine | 29 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | Nα-butoxycarbonyl-O-benzyl-L-serine | 33 mmol | C(CCC)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Nα-t-butoxycarbonyl-L-tryptophan | 33 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosine methyl ester | COC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)COCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C43H48N4O8
